US04737497
dl-1,2-Bis[4-(N-phenylpiperazinomethyl)-3,5-dioxopiperazin-1-yl]-propane
A mixture of N-phenylpiperazine (2.9 g, 17.7 m mole), DMF (20 ml), absolute ethanol (5 ml) and dl-1,2-bis(3,5-dioxopiperazin-1-yl)-propane (2,0 g, 7.4 m mole) was stirred at 150° C. for ten minutes. The mixture was treated with 37% aqueous formaldehyde solution (1.40 ml) and was stirred at the same temperature for further 1.5 hours. Then, the same procedure as in Example 3 was made to give the titled compound (2.9 g; yield 88%).

reactant | N-phenylpiperazine | 2.9 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | 1,2-bis(3,5-dioxopiperazin-1-yl)-propane | 2,0 g | O=C1CN(CC(N1)=O)CC(C)N1CC(NC(C1)=O)=O | C11H16N4O4
reactant | formaldehyde | 1.40 ml | C=O | CH2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,2-Bis[4-(N-phenylpiperazinomethyl)-3,5-dioxopiperazin-1-yl]-propane | 2.9 g, yield 88% | C1(=CC=CC=C1)N1CCN(CC1)CN1C(CN(CC1=O)CC(C)N1CC(N(C(C1)=O)CN1CCN(CC1)C1=CC=CC=C1)=O)=O | C33H44N8O4
